US08563542B2
Step 4: 2-Chloro-9-cyclopentyl-5,7,8,9-tetrahydro-6H-pyrimido[4,5-b][1,4]diazepin-6-one
Methyl 3-[cyclopentyl(2-chloro-5-nitropyrimidin-4-yl)amino]propanoate (1.00 g, 0.003 mol) and NH4Cl (1.38 g, 0.025 mol, 8.5 eq) were added to EtOH/H2O (4:1 ml, 10 ml) and the mixture heated to reflux before the portion-wise addition of iron powder (1.36 g, 0.024 mol, 8 eq). The RM was then refluxed for an additional 2 h. Progress of the reaction was monitored by HPLC and when no SM remained the RM was filtered hot through celite. The celite was washed with EtOAc (10 ml) and EtOH (10 ml) [both hot] and the filtrate evaporated under reduced pressure and further dried in vacuo to give the product as a brown solid (350 mg, 43%); Rt=12 min (Vydac 1); MS+ve: 267.2.

reactant | Methyl 3-[cyclopentyl(2-chloro-5-nitropyrimidin-4-yl)amino]propanoate | 0.003 mol, 1.00 g | C1(CCCC1)N(CCC(=O)OC)C1=NC(=NC=C1[N+](=O)[O-])Cl | C13H17ClN4O4
reactant | NH4Cl | 0.025 mol, 1.38 g, 8.5 eq | [NH4+].[Cl-]
catalyst | iron | 0.024 mol, 1.36 g, 8 eq | [Fe] | Fe
solvent | EtOH H2O | 1 ml | CCO.O
product | 2-Chloro-9-cyclopentyl-5,7,8,9-tetrahydro-6H-pyrimido[4,5-b][1,4]diazepin-6-one | 350 mg, 43% | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCCC2)N1 | C12H15ClN4O
